US05840732
vi) Synthesis of 7-(4-chlorobutyl)-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a suspension of 2.76 g (15 mmol) of 3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione and 3.32 g (24 mmol) of potassium carbonate in 50 ml of N,N-dimethyl-formamide, 3.46 ml (30 mmol) of 1-bromo-4-chlorobutane was added at room temperature, followed by stirring at 60° C. for 2 hours and then at 100° C. for 3 hours. After cooling, the reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane-water; the organic layer was washed with water and dried. The oily substance obtained by distilling off the solvent was purified by column chromatography (eluent, n-hexane/ethyl acetate=2/1→1/4) to yield 1.92 g (46.6%, white powder) of the desired product.

reactant | 3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 15 mmol, 2.76 g | S1C=2N(CCC1)C(NC(C2)=O)=O | C7H8N2O2S
reactant | potassium carbonate | 24 mmol, 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 30 mmol, 3.46 ml | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(4-chlorobutyl)-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | ClCCCCN1C(N2C(SCCC2)=CC1=O)=O | C11H15ClN2O2S
